US07001897B2
To a solution of p-nitrobenzyl (1R,5S,6S)-2-(1-{4-[(1S)-1-(t-butyldimethylsilyloxymethyl)-propylcarbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (920 mg, 1.23 mmol) (obtained as described in Example 39(1)) in tetrahydrofuran (46 ml) were added acetic acid (208 μl, 3.63 mmol) and a solution of 1 M tetrabutylammonium fluoride in tetrahydrofuran (3.63 ml, 3.63 mmol) in an ice bath and the mixture was stirred for 2 days at room temperature. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate and ethyl acetate:methanol (95:5) as the eluant to afford p-nitrobenzyl (1R,5S,6S)-2-{1-[4-((1S)-1-hydroxymethyl-propylcarbamoyl)-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (437 mg, yield 56%) as a pale yellow solid.

reactant | p-nitrobenzyl (1R,5S,6S)-2-(1-{4-[(1S)-1-(t-butyldimethylsilyloxymethyl)-propylcarbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 1.23 mmol, 920 mg | [Si](C)(C)(C(C)(C)C)OC[C@H](CC)NC(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C34H47N5O8S2Si
reactant | acetic acid | 3.63 mmol, 208 μl | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 46 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.63 mmol, 3.63 ml | O1CCCC1 | C4H8O
product | p-nitrobenzyl (1R,5S,6S)-2-{1-[4-((1S)-1-hydroxymethyl-propylcarbamoyl)-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 437 mg, yield 56% | OC[C@H](CC)NC(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C28H33N5O8S2
